US07700786B2
Triethylamine (0.18 g, 1.8 mmol) and ethyl isocyanate (0.13 g, 1.8 mmol) were added to a solution of 5-methyl-3-(3-methyl-4-nitrophenyloxy)pyrazole (0.35 g, 1.5 mmol) in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 8 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/7), to give a white solid of N-ethyl-5-methyl-3-(3-methyl-4-nitrophenyloxy)pyrazole-1-carboxamide (0.27 g, yield: 59.2%). mp: 67-69° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.24 (t, J=7.3 Hz, 3H), 2.63 (s, 6H), 3.40 (dq, J=5.9 and 7.3 Hz, 2H), 5.79 (q, J=0.8 Hz, 1H), 6.85-7.00 (m, 1H), 7.00-7.15 (m, 2H), 8.07 (d, J=8.6 Hz, 1H).

reactant | Triethylamine | 1.8 mmol, 0.18 g | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 1.8 mmol, 0.13 g | C(C)N=C=O | C3H5NO
reactant | 5-methyl-3-(3-methyl-4-nitrophenyloxy)pyrazole | 1.5 mmol, 0.35 g | CC1=CC(=NN1)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C11H11N3O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-5-methyl-3-(3-methyl-4-nitrophenyloxy)pyrazole-1-carboxamide | 0.27 g, yield: 59.2% | C(C)NC(=O)N1N=C(C=C1C)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C14H16N4O4
